Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ Male with long-standing blindness since 
childhood, HTN, HLD, ___ Esophagus, presents with syncope 
x 1.  
 He was at a family party this evening and had been standing for 
approximately 3 hours when he felt lightheaded then passed out 
for ___ seconds. No urinary or fecal incontinence. No seizure 
activity. EMS was called and found his BP to be 100/60 and 
bradycardic to 60. Placed in ___ and felt much better 
with improved BP en route to ___. He had not drank anything 
since 7am that morning in terms of fluid. He had a small glass 
of wine at dinner. His lisinopril was recently doubled a week 
ago from 10mg to 20mg daily and for the last 3 days has felt a 
little lightheaded.  
 He also complains of a neck "tenseness" that started around the 
same time as the lightheadedness. He has difficulty describing 
it but says now it has gotten much better.  
 No family history of SCD. He has no cardiac or CVA history.  
 In the ED, initial vitals were: 97.0 70 120/64 18 96% RA  
 - Labs were significant for Cr of 1.7 ___ 1.3)  
 - CT head and neck showed Mild multilevel cervical spine 
degenerative change and chronic maxillary sinusitis.  
 - EKG NSR  
 - The patient was given 1L IVF  
 Upon arrival to the floor, he feels much better and is having 
no symptoms.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
HYPERTENSION  
 HYPERLIPIDEMIA  
 BLINDNESS  
 POSITIVE RPR  
 ___ ESOPHAGUS  
 VITAMIN D DEFICIENCY  
 ALLERGIC RHINITIS  
 PROSTATE CANCER  
 ANGULAR CHEILITIS  

 
Social History:
___
Family History:
Mother ___ ___ from ESOPHAGEAL CANCER 
Father ___ ___ from HEPATITIS B 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 Vitals:98.1 162/82 79 12 99%RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, eyes move 
erratically from side to side and does not track examiner. 
Anisocoria present.  
 Neck: Supple, no LAD. No pain with palpation of cervical spine. 
 
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: Not able to test CN 2,3,4,6,7 due to inability to 
participate in exam. CN 5,11,12 intact. ___ strength upper/lower 
extremities, grossly normal sensation. Finger to nose and heel 
to shin intact.  

DISCHARGE PHYSICAL EXAM:  
 Vitals: 98.4 155/106, tele rates ___ with no events, 20 
99%RA 
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, anisocoria 
present.  
 Neck: Supple, no LAD. No pain with palpation of cervical spine. 
 
 CV: Regular rate and rhythm, normal S1 + S2, systolic murmur at 
apex radiating to axilla, no rubs or gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, 1+ pitting edema up to mid 
calves L>R, no clubbing or cyanosis  
 Neuro: Not able to test CN 2,3,4,6,7 due to inability to 
participate in exam. CN 5,11,12 intact. ___ strength upper/lower 
extremities, grossly normal sensation. Heel to shin intact.  

 
Pertinent Results:
ADMISSION LABORATORY STUDIES
===============================
___ 10:27PM BLOOD WBC-7.7 RBC-4.34* Hgb-13.8 Hct-42.0 
MCV-97 MCH-31.8 MCHC-32.9 RDW-12.0 RDWSD-42.5 Plt ___
___ 10:27PM BLOOD Neuts-57.7 ___ Monos-8.9 Eos-0.9* 
Baso-0.8 Im ___ AbsNeut-4.41 AbsLymp-2.39 AbsMono-0.68 
AbsEos-0.07 AbsBaso-0.06
___ 10:27PM BLOOD ___ PTT-25.6 ___
___ 10:27PM BLOOD Glucose-113* UreaN-17 Creat-1.7* Na-138 
K-3.8 Cl-103 HCO3-23 AnGap-16

MICROBIOLOGY
================================
NONE

IMAGING
================================
CT head w/o contrast (___):  
1. No acute intracranial process. No hemorrhage.  
2. Evidence of right greater the left chronic maxillary 
sinusitis, as above.  
 
CT C-spine w/o contrast (___) 
1. No fracture or prevertebral fluid. No malalignment.  
2. Mild multilevel cervical spine degenerative change, as above. 
 
 
CXR (___): No acute cardiopulmonary process (my read).  
 
ECG: NSR rate 67  

LABORATORY STUDIES ON DISCHARGE
=================================
___ 06:12AM BLOOD Glucose-89 UreaN-13 Creat-1.2 Na-140 
K-5.0 Cl-107 HCO3-26 AnGap-12
 
Brief Hospital Course:
Mr. ___ is a ___ year old man w/ a h/o HTN, HLD, and blindness, 
with no known history of structural heart disease or CAD, who 
was admitted after witnessed syncopal event.

# VASOVAGAL SYNCOPE
Patient was admitted after witnessed syncopal event, associated 
with prodromal symptoms of lightheadedness and nausea. He had a 
witnessed syncopal event from a standing position with loss 
consciousness for about 30 seconds.  No seizure activity was 
noted.  On EMS arrival, he was found to be bradycardic to 50 and 
BP 100/60. Of note, the patient's lisinopril was recently 
increased from 10mg to 20mg. On admission, exam was notable for 
no evidence of heart failure, and lack of focal findings on 
neurological exam (other than known blindness).  Laboratory 
studies notable only for mild ___ that resolved with fluids. ECG 
showed normal sinus rhythm and no evidence of prior ischemia.  
He was monitored overnight on telemetry without events noted.  
CT head and neck negative for acute process. CXR no acute 
process. The patient was given IVF overnight, with symptom 
resolution by the following morning.  Etiology was felt to be 
vasovagal syncope and possible orthostasis given prodromal 
symptoms, prolonged standing, and poor po intake in setting of 
recent increase of lisinopril dose. The patient was stable on 
discharge without further episodes. The patient was discharged 
home with a plan to ___ with his PCP in ___.  On 
discharge, lisinopril was decreased from 20mg po daily to 10mg 
po daily.  

___: 
On admission, patient was found to have mild ___ with creatinine 
of 1.7 (increased from baseline 1.3).  The patient was given 
intravenous fluids with improvement of creatinine to 1.2 on 
discharge.  The etiology of the ___ was felt to be secondary to 
pre-renal etiology from poor po intake, and recent increase in 
lisinopril dose.  

TRANSITIONAL ISSUES 
===================================
#Needs PCP ___. Patient to travel to ___ on ___ 
and will be there for several months. The patient is aware that 
he needs to schedule ___ in the next week.
#Decreased lisinopril from 20mg po daily to 10mg po daily. Needs 
close ___ of blood pressure. 
#CT scan of the neck showed mild multilevel cervical spine 
degenerative changes.  Consider DEXA as an outpatient to 
evaluate for osteoporosis.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 40 mg PO QPM 
2. Omeprazole 40 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
vasovagal syncope
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.  You were admitted to 
the hospital because you had an episode of syncope.  We think 
this was likely caused by dehydration, and standing for a long 
time.  It is important for you to be sure to drink lots of 
fluids and eat well.  You should also schedule an appointment 
with a primary care physician in ___.  You should follow 
up with the primary care doctor within one week of discharge.

Sincerely,

Your ___ team
 
Followup Instructions:
___